US06667312B2
Sodium thiomethoxide (2.02 g of 95%, 27.40 mmol) was added in a single portion to a solution of 1-(4-chlorobutyl)-2-methyl-1H-imidazo[4,5-c]quinoline (5.0 g, 18.26 mmol) in anhydrous N,N-dimethylformamide (91 mL). After 30 minutes the reaction mixture was poured with rapid stirring into water (500 mL). The resulting solution was extracted with chloroform (2×200 mL). The organic layers were combined, washed with saturated aqueous sodium bicarbonate (100 mL) then with brine (100 mL), dried over sodium sulfate, filtered and then concentrated under reduced pressure to provide 5.0 g 2-methyl-1-[4-(methylthio)butyl]-1H-imidazo[4,5-c]quinoline as a light yellow oil.

reactant | Sodium thiomethoxide | 27.40 mmol, 2.02 g | C[S-].[Na+]
reactant | 1-(4-chlorobutyl)-2-methyl-1H-imidazo[4,5-c]quinoline | 18.26 mmol, 5.0 g | ClCCCCN1C(=NC=2C=NC=3C=CC=CC3C21)C | C15H16ClN3
reactant | water | 500 mL | O | H2O
solvent | N,N-dimethylformamide | 91 mL | CN(C=O)C | C3H7NO
product | 2-methyl-1-[4-(methylthio)butyl]-1H-imidazo[4,5-c]quinoline | 5.0 g | CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCSC | C16H19N3S
